Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
 
 
History of Present Illness:
___ with a history of osteoporosis, hypertension, OSA on CPAP 
presents after a mechanical fall.  Apparently was feeling well, 
in house sitting on couch, her doorbell rang and she got up 
quickly and twisted her ankle and fell to the ground.  She 
landed on a R hand that was outstretched.  She suddenly 
developed ___ shoudler pain, with additional elbow, wrist and 
knee pain all on that side.  She did not lose consciousness or 
have any head trauma.  She remembers the events very clearly.  

She has occasional DOE, no SOB at rest, no PND, no orthopnea, 
chronic mild ankle edema.

In the ER she was noted to have a shoulder dislocation, this was 
reduced successfully.  She was noted also to be mildly hypoxic 
(high ___ on room air) requiring 2 liters of oxygen and was 
sating 95% on this.  CXR was prelim within normal limits, ECG 
with lateral ST depressions which is unchanged from prior.  She 
got cipro 500mg po x 1 for a u/a with many bacteria, ___ Wbc and 
trace leuk / + nitrites and ___ epis.  She rec'd ___ liters of 
IVF.
 
Past Medical History:
-cervical spondylosis  
-GERD  
-OSA with CPAP  
-HTN  
-osteoporosis  
-anxiety  
-angina, no cath before, controlled with Imdur  
-peripheral neuropathy b/l feet, "very hot" sensation, wears 
orthotics  
-irritable bowel syndrome  

 
Social History:
___
Family History:
not relevant to the current hospitalization 
 
Physical Exam:
VS: T 97 BP 136/69  HR 53  RR 20  O2 sat 91% on RA, 93% on 1L
GEN: NAD, AOX3
HEENT: MM slightly dry, OP clear, no JVD
CARD: RRR, soft heart sounds
PULM: bibasilar rales
ABD: soft, NT, ND, no masses or organomegly
EXT: WWP, no c/c/e
NEURO: AOx3, grossly normal
 
Pertinent Results:
___ 09:50PM BLOOD 
WBC-8.9 RBC-4.76 Hgb-14.1 Hct-40.1 MCV-84 MCH-29.7 MCHC-35.2* 
RDW-13.3 Plt ___
Neuts-62.5 ___ Monos-3.8 Eos-2.5 Baso-1.0
Glucose-155* UreaN-24* Creat-1.2* Na-138 K-3.8 Cl-98 HCO3-26 
AnGap-18
0cTropnT-<0.01

___ 12:00AM URINE  
COLOR-Yellow APPEAR-Hazy SP ___
BLOOD-TR NITRITE-POS PROTEIN-NEG GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-SM
___ BACTERIA-MANY YEAST-NONE ___

___ ANKLE X RAY: 
No fracture or dislocation. Medial ankle soft tissue swelling. 
  
___ SHOULDER X RAY: (POST REDUCTION) 
Right shoulder reduction. Hill ___ deformity.

___ SHOUDLER X RAY: 
1. Anterior dislocation of the right shoulder with ___ 
deformity. 
2. No definite fracture of the distal radius, if there is 
continued concern, recommend further evaluation with MRI. 
3. Thumb CMC and STT joint arthritis as above. 

___ KNEE X RAY: 
No fracture . Please note that assessment of the patella is 
limited on these views and if there is persistent clinical 
concern for 
patellar injury, dedicated patellar views should be obtained. 

___ CXR (no final read): my read. 
cardiomegaly, poor penetration but no clear pulmonary edema or 
pneumonia

___ ECG: sinus rate of 51, borderline left axis deviation 
-30 degrees.  LVH.  inferior Q waves, poor R wave progression.  
biphasic T waves and ST depressions in I, aVL and V5, V6.  TWI 
in V1-V3.  Changes are of similar distribution from prior but 
TWI and ST depresions are more prominent.  

 
Brief Hospital Course:
This is an ___ year old woman who had a fall and developed right 
SHOULDER DISLOCATION which was reduced by the ED physician and 
placement was confirmed with several shoulder X-Rays. She was 
treated with standing Tylenol, prn oxycodone 2.5 mg, and ___. She 
had a sling placement. The sling should remain in place for 
several weeks as she most likely had rotator cuff tear 
associated with her dislocation (case and images were discussed 
with orthopaedics). ___ cuff tear is a very common 
complication of shoulder dislocation in the elderly (per 
orthopaedic). She should see outpatient shoulder specialist in 
few weeks after discharge and appointment could not be scheduled 
because of discharge to rehab. She was admitted because of 
HYPOXIA in the ED. She had no H/O COPD, asthma, or significant 
smoking history. She had a history of angina but no heart 
failure (no cath but on medical treatment with Imdur). She had 
DOE for several weeks without explanation or diagnosis. She had 
a history of OSA treated with CPAP. Her CXR was normal except 
for hyperinflation. There was no pneumonia. Her most recent 
Echocardiogram (___) showed diastolic dysfunction. She 
underwent CTA of the chest, repeat Echocardiogram, and BNP. The 
CT showed no pulmonary embolism or significant interstitial 
pulmonary disease. However it showed bronchiectasis and evidence 
of prior lung infection. The ECHO and BNP were both suggestive 
of hypertrophic cardiomyopathy from long standing hypertension 
chronic diastolic heart failure. The Echo also suggested 
moderate aortic regurgitation. The hypoxia was also related to 
atelectasis from sedation required to reduce shoulder. She 
stated she was "passed out" from the morphine in the ER. She was 
treated with incentive spirometry, ambulation tid, and we 
finally added Lasix (instead of HCTZ). We also increased her BP 
medications (the atenolol and the Imdur for better BP control). 
We were able to wean O2. There was a question of URINARY TRACT 
INFECTION. Her UA was only positive for ___ WBC, nitrate, and 
few bacteria. She had no urinary symptoms initially but then 
developed urgency and was treated empirically with Bactrim. She 
was discharged to short term rehab (less than 30 days) for her 
inability to care for herself with shoulder pain and limited ROM 
and ankle sprain as she lives alone. 

The new diagnosis are :

Diastolic heart failure from hypertrophic cardiomyopathy from 
chronic hypertension. 
Aortic regurgitation 
Bronchiectasis

She was asked to follow up with Cardiology and orthopaedic.  All 
of the above was discussed with her 2 daughters. ___ time 
more than 30 minutes. 
 
Medications on Admission:
atenolol 25mg po daily
fioricet prn
celexa 20mg po daily
hctz 25mg po daily
imdur 15mg po qam and 30mg po qpm
provigil 200mg po bid
prilosec 20mg po daily
simvastatin 10mg po daily
diovan 320mg po daily
aspirin 81mg po daily
vitamin b12 1000mcg daily
colace 100mg po daily
multivitamin daily
 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours).  
2. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. atenolol 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily): 
Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
q pm 
.  
6. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily): q 
am.  
7. modafinil 100 mg Tablet Sig: Two (2) Tablet PO bid ().  
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. valsartan 160 mg Tablet Sig: One (1) Tablet PO twice a day.  

11. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
12. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
13. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
14. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. olopatadine 0.2 % Drops Sig: One (1)  Ophthalmic daily ().  
16. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry.  
17. furosemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
18. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily).  
19. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
dislocated right shoulder from a fall 
diastolic heart failure
aortic valve regurgitation
ankle sprain
hypoxemia
atelectasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You had dislocated right shoulder from a fall and an ankle 
sprain. The shoulder was reduced back to its place and that was 
confirmed with several shoulder X-Rays. Please use a sling for 
several weeks and avoid any shoulder movements. Please see your 
PCP regarding when to remove the sling and start shoulder 
movement or physical therapy. You had a low oxygen level in you 
blood which has improved. However, you had several tests 
including a CT of the chest, Echocardiogram, and BNP level. You 
were diagnosed with diastolic heart failure from hypertrophic 
cariomyopathy from chronic hypertension. Your BP was elevated 
during this hospitalization and your BP medications were 
adjusted. We also added Lasix instead of HCTZ for the heart 
failure. Please follow up with Cardiology and orghtopaedic.  
 
Followup Instructions:
___